US08791102B2
Proceeding as in Reference 5, but substituting 4-(4-fluorophenoxy)aniline and (S)-5-acetamido-2-(tert-butoxycarbonylamino)pentanoic acid, gave (S)-5-acetamido-2-amino-N-(4-(4-fluorophenoxy)phenyl)pentanamide (200 mg, 56%).

reactant | 4-(4-fluorophenoxy)aniline | FC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10FNO
reactant | (S)-5-acetamido-2-(tert-butoxycarbonylamino)pentanoic acid | C(C)(=O)NCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C12H22N2O5
product | (S)-5-acetamido-2-amino-N-(4-(4-fluorophenoxy)phenyl)pentanamide | 200 mg, 56% | C(C)(=O)NCCC[C@@H](C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)N | C19H22FN3O3
